US05990101
3-(N-allyloxycarbonyl-N-methylamino)methylimidazo[5,1-b]thiazole
To 207 mg of a mixture of 3-(N-methylamino)methylimidazo[5,1-b]thiazole and 3-hydroxymethylimidazo[5,1-b]thiazole in a ratio of about 1:1, 10 ml of dichloromethane and 3 ml of water were added, and then 0.092 ml of allyl chloroformate was added thereto under ice-cooling. The mixture was stirred for 30 minutes under ice-cooling, while the aqueous layer was adjusted to pH 8.5 by adding a sodium hydrogencarbonate solution. The organic layer was separated, and the aqueous layer was extracted with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was evaporated under reduced pressure. The resulting residue was purified by a silica gel column chromatograph to obtain 73.6 mg of the title compound.

reactant | 3-(N-methylamino)methylimidazo[5,1-b]thiazole | CNCC=1N2C(SC1)=CN=C2 | C7H9N3S
reactant | 3-hydroxymethylimidazo[5,1-b]thiazole | OCC=1N2C(SC1)=CN=C2 | C6H6N2OS
reactant | allyl chloroformate | 0.092 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 3 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(N-allyloxycarbonyl-N-methylamino)methylimidazo[5,1-b]thiazole | 73.6 mg | C(C=C)OC(=O)N(C)CC=1N2C(SC1)=CN=C2 | C11H13N3O2S
